### PR TITLE
feat(Topology/Algebra/InfiniteSum): Generalize ENNReal lemmas

### PR DESCRIPTION
**Pull request by Jun2M**
This PR generalizes many theorems in Topology/Algebra/InfiniteSum/ENNReal.lean from `ENNREal` to any type that satisfies a list of order-related instances, mostly
`[CommMonoid α] [CompleteLattice α] [CanonicallyOrderedMul α] [TopologicalSpace α] [SupConvergenceClass α]` 

Deprecation of the original `ENNReal` lemmas are done in the next PR: #38193.

Related Zulip thread: [#Is there code for X? > Summing `ENat`s without topology](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Summing.20.60ENat.60s.20without.20topology/with/588756615)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 1]
```diff
@@ -271,6 +272,209 @@ theorem isLUB_hasProd' (hf : HasProd f a) : IsLUB (Set.range fun s ↦ ∏ i ∈
...
+
+section CompleteLatticeAdd
+
+open CompleteLattice
+
+variable [AddCommMonoid α] [CompleteLattice α] [CanonicallyOrderedAdd α] [TopologicalSpace α]
+  [SupConvergenceClass α] {ι' : Type*} {f g : ι → α} {s t : Set ι} {x : α} {i j : ι}
+  [ContinuousAdd α] [T3Space α]
+
+theorem tsum_prod {f : ι → ι' → α} : ∑' p : ι × ι', f p.1 p.2 = ∑' (a) (b), f a b :=
```
Comment (SnirBroshi) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: > Note: lemma `tsum_prod` is about `tsum` over `Prod` type. Yet, `@[to_additive]` being added to `tprod_prod` misnames it as `tsum_sum`. As a result, it is implemented separately.

Does specifying an explicit name work (`@[to_additive tsum_prod]` on `tprod_prod`) or is the translation itself flawed?

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 2]
```diff
@@ -271,6 +272,195 @@ theorem isLUB_hasProd' (hf : HasProd f a) : IsLUB (Set.range fun s ↦ ∏ i ∈
...
+
+@[to_additive] theorem tprod_eq_iSup_prod : ∏' x, f x = ⨆ s : Finset ι, ∏ a ∈ s, f a :=
+  CompleteLattice.hasProd.tprod_eq
+
+@[to_additive] theorem tprod_eq_iSup_prod' (s : ι' → Finset ι) (hs : ∀ t, ∃ i, t ⊆ s i) :
+    ∏' a, f a = ⨆ i, ∏ a ∈ s i, f a := by
+  rw [tprod_eq_iSup_prod]
+  symm
+  change ⨆ i : ι', (fun t : Finset ι => ∏ a ∈ t, f a) (s i) = ⨆ s : Finset ι, ∏ a ∈ s, f a
+  exact (Finset.prod_mono_set' f).iSup_comp_eq hs
```
Comment (wwylele) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean]:
```suggestion
  simpa [tprod_eq_iSup_prod] using ((Finset.prod_mono_set' f).iSup_comp_eq hs).symm
```

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 3]
```diff
@@ -271,6 +272,195 @@ theorem isLUB_hasProd' (hf : HasProd f a) : IsLUB (Set.range fun s ↦ ∏ i ∈
...
+
+variable [ContinuousMul α]
+
+@[to_additive] theorem tprod_mul : ∏' a, (f a * g a) = (∏' a, f a) * ∏' a, g a :=
```
Comment (wwylele) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: This is in the root namespace, which will appear first in doc search, meanwhile the more commonly applicable one `Multipliable.tprod_mul` is in the Multipliable namespace. I suggest we do either one of the following
 - Move this to `CompleteLattice` as well. For consistency, maybe just do this for this entire section?
 - Add a doc string to say "see also `Multipliable.tprod_mul` that doesn't require `CompleteLattice`"

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 4]
```diff
@@ -271,6 +272,195 @@ theorem isLUB_hasProd' (hf : HasProd f a) : IsLUB (Set.range fun s ↦ ∏ i ∈
...
+  multipliable.tprod_mul multipliable
+
+@[to_additive] theorem tprod_union_disjoint (hd : Disjoint s t) :
```
Comment (wwylele) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: I believe the naming convention says this should be
```suggestion
@[to_additive] theorem tprod_union_of_disjoint (hd : Disjoint s t) :
```

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 5]
```diff
@@ -271,6 +272,195 @@ theorem isLUB_hasProd' (hf : HasProd f a) : IsLUB (Set.range fun s ↦ ∏ i ∈
...
+  rw [← diff_union_self, tprod_union_disjoint disjoint_sdiff_left]
+  exact mul_le_mul_left (tprod_le_of_subset diff_subset) _
+
+@[to_additive]
+theorem tprod_insert (h : i ∉ s) : ∏' (x : ↑(insert i s)), f x = f i * ∏' (x : s), f x := by
+  rw [← singleton_union, tprod_union_disjoint, tprod_singleton]
+  rwa [Set.disjoint_singleton_left]
+
+@[to_additive]
+theorem tprod_singleton_mul_tprod_ne : f i * (∏' (x : {x // x ≠ i}), f x) = ∏' x, f x := by
```
Comment (wwylele) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: Perhaps this is what you meant?
```suggestion
theorem singleton_mul_tprod_ne : f i * (∏' (x : {x // x ≠ i}), f x) = ∏' x, f x := by
```

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean (hunk 3 above)
Comment (Jun2M) [reply Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: I am hesitant to moving theorems to `CompleteLattice` namespace as it is an instance whereas `Multipliable` is a def which you can use dot notation with. I will try to add doc strings to places where there is more general `Multipliable` version.

**Comment by wwylele** [comment]
It appears that this PR didn't get auto-tagged and thus no assigned reviewer. Perhaps you can tag it t-topology (or t-algebra? what do we usually tag for tsum?)

**Comment by Jun2M** [comment]
@wwylele, I have manually added t-topology (as the edited file is in topology folder). Hopefully this fixes it.

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 6]
```diff
@@ -271,6 +273,256 @@ theorem isLUB_hasProd' (hf : HasProd f a) : IsLUB (Set.range fun s ↦ ∏ i ∈
 
 end CanonicallyOrderedMul
 
+section CompleteLattice
+
+variable [CommMonoid α] [CompleteLattice α] [CanonicallyOrderedMul α] [TopologicalSpace α]
+  [SupConvergenceClass α] {ι' : Type*} {f g : ι → α} {s t : Set ι} {x : α} {i j : ι}
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: I would venture to say that any lemma using `CanonicallyOrderedMul` is (nearly) useless, as the only types with such an instance are [`Associates` and `Filter.Germ`](https://loogle.lean-lang.org/?q=%7C-+CanonicallyOrderedMul+_)`, and neither of these satisfy `SupConvergenceClass`. I think I would restrict to the additive variants here, and only add the multiplicative ones if we can ever manage to come up with a valid scenario (if you *really* want, I think the subtype `↥{x : ℝ≥0∞ | 1 ≤ x}` should satisfy all these hypotheses; if you were to add a `CanonicallyOrderedMul` instance for this subtype, I would be willing to shut up about this).

Comment (Jun2M) [reply Mathlib/Topology/Algebra/InfiniteSum/Order.lean]: I have changed to additive only!
